US07115619B2
2-(3-Bromo-phenylamino)-4-chlorobenzoic acid (14)
(Method D-2) Under an atmosphere of nitrogen, 2,4-dichlorobenzoic acid (36 g, 0.19 mol), 3-bromoaniline (48 g, 0.28 mol), potassium carbonate (32 g, 0.23 mol), and copper powder (1 g, 0.016 mol, catalytic) were mixed in dry DMF (150 ml) and heated to 150° C. for 18 hrs. The DMF was removed under reduced pressure, water (200 mL) added and the mixture acidified with 2M HCl (400 mL) to give a brown solid which was collected by filtration. Recrystallisation from ethanol/water (60/40) gave the title compound (43 g, 0.116 mol 61%) as a grey solid. See, for example, Hodgeman et al., 1972.

reactant | 2,4-dichlorobenzoic acid | 0.19 mol, 36 g | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | 3-bromoaniline | 0.28 mol, 48 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | potassium carbonate | 0.23 mol, 32 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
catalyst | copper | 0.016 mol, 1 g | [Cu] | Cu
product | 2-(3-Bromo-phenylamino)-4-chlorobenzoic acid | 0.116 mol, 43 g, 61% | BrC=1C=C(C=CC1)NC1=C(C(=O)O)C=CC(=C1)Cl | C13H9BrClNO2
